US09303033B2
To 7-(cyclopropylamino)-5-(2-fluoropyridin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde 30 mg, 0.1 mmol) in EtOH (1 mL) was added piperidine (13 μL, 0.1 mmol), and rhodanine (13 mg, 0.1 mmol). The reaction was stirred at 80° C. for 2 hours. The solid formed was isolated by filtration, washed with water then ethanol. The recovered solid was further purified by washing with 20% methanol/dichloromethan to provide 15 mg of 5-((7-(cyclopropylamino)-5-(2-fluoropyridin-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)-2-thioxothiazolidin-4-one (35%). LCMS (M+1=413)

reactant | 7-(cyclopropylamino)-5-(2-fluoropyridin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 0.1 mmol, 30 mg | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)C2=CC(=NC=C2)F | C15H12FN5O
reactant | piperidine | 0.1 mmol, 13 μL | N1CCCCC1 | C5H11N
reactant | rhodanine | 0.1 mmol, 13 mg | S1C(=S)NC(=O)C1 | C3H3NOS2
solvent | EtOH | 1 mL | CCO | C2H6O
product | 5-((7-(cyclopropylamino)-5-(2-fluoropyridin-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)-2-thioxothiazolidin-4-one | 15 mg, 35% | C1(CC1)NC1=CC(=NC=2N1N=CC2C=C2C(NC(S2)=S)=O)C2=CC(=NC=C2)F | C18H13FN6OS2
